US09376441B2
tert-butyl 7-(1-cyclopropyl-7-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)-4-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (40 mg, 0.075 mmol) was dissolved in DCM (2 mL), TFA (0.29 mL, 3.76 mmol) was added. The reaction was stirred at rt for 16 h. The mixture was quenched with saturated NaHCO3, extracted with EtOAc (3×30 ml). The combined organic layers were washed with water (2×5 mL), concentrated and purified by flash chromatography eluted with 5% to 20% MeOH/EtOAc to give 23.8 mg, (73.3%) of (R)-4-((R)-1-((1-cyclopropyl-5-(1-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)-1H-benzo[d]imidazol-7yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, DMSO-d6) δ 8.01 (s, 1H), 7.57 (s, 1H), 7.19 (s, 1H), 6.88 (s, 1H), 6.74 (dd, J=2.4, 2.4 Hz, 1H), 6.68 (d, J=2.4 Hz, 1H), 6.48 (d, J=8.1 Hz, 1H), 5.54 (s, 1H), 4.76-4.73 (m, 1H), 3.67-3.63 (m, 1H), 3.40-3.30 (m, 3H), 3.20-3.11 (m, 3H), 2.77 (s, 4H), 2.38-2.23 (m, 2H), 1.29 (d, J=6 Hz, 3H), 1.06-0.96 (m, 4H), LCMS-ESI+ (m/z): [M+H]+ calcd for C25H29N5O2:431.23; found 432.22.

reactant | tert-butyl 7-(1-cyclopropyl-7-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-1H-benzo[d]imidazol-5-yl)-4-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.075 mmol, 40 mg | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC=C1N(CCN(C1=C2)C(=O)OC(C)(C)C)C)O[C@H](C)[C@H]2CNC(C2)=O | C30H37N5O4
reactant | TFA | 3.76 mmol, 0.29 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-((1-cyclopropyl-5-(1-methyl-1,2,3,4-tetrahydroquinoxalin-6-yl)-1H-benzo[d]imidazol-7yl)oxy)ethyl)pyrrolidin-2-one | 73.3% | C1(CC1)N1C=NC2=C1C(=CC(=C2)C=2C=C1NCCN(C1=CC2)C)O[C@H](C)[C@@H]2CC(NC2)=O | C25H29N5O2
